US07173004B2
To a solution of 8.52 g (25.7 mmol) of N-tert-butoxycarbonyl-3-(4-pentenylthio)-L-valine, methyl ester in 200 mL of tetrahydrofuran at room temperature was added a solution of 1.10 g (26.2 mmol) of lithium hydroxide monohydrate in 50 mL of water. The resulting mixture was stirred at room temperature for 65 hours. To the reaction mixture then was added 28 mL of 1.00N hydrochloric acid. The mixture was diluted with diethyl ether, washed with water (3×) and brine, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum to afford 8.10 g of N-tert-butoxycarbonyl-3-(4-pentenylthio)-L-valine as a colorless oil. NMR (300 MHz, CDCl3): δ 5.75 (d of d of t, 1H, J=17.2, 10.3, 6.6 Hz), 5.40 (br s, 1H), 5.05–4.94 (m, 2H), 4.28 (br s, 1H), 2.56 (m, 2H), 2.13 (quart., 2H, J=7.3 Hz), 1.63 (quint., 2H, J=7.3 Hz), 1.44 (s, 9H), 1.39 (s, 3H), 1.37 (s, 3H).

reactant | N-tert-butoxycarbonyl-3-(4-pentenylthio)-L-valine, methyl ester | 25.7 mmol, 8.52 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)(C)SCCCC=C)C(=O)OC | C16H29NO4S
reactant | lithium hydroxide monohydrate | 26.2 mmol, 1.10 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 1.00N, 28 mL | Cl | ClH
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-tert-butoxycarbonyl-3-(4-pentenylthio)-L-valine | 8.10 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)(C)SCCCC=C)C(=O)O | C15H27NO4S
